US07737136B2
N-acylation of an amine of Structure 25 to an amide of Structure 26 Benzenesulfonyl chloride (5 μL, 0.04 mmol) was added under N2 to trans-N-(8-amino-7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2,-trifluoroacetamide (5.0 mg, 0.01 mmol) in a mixture of 1 mL of CH2Cl2 and 25 μL of triethylamine. The resulting mixture was stirred at 40° C. for 4 h. After cooling the mixture was evaporated and the crude compound was purified by chromatography on silica. Elution with toluene/ethyl acetate 1:0→0:1 (gradient) gave trans-N-(7-chloro-2,3,4,14b-tetrahydro-8-[bis(phenylsulfonyl)amino]-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide (7.3 mg, 83%). Data: (m/z)=692 (M+H)+.

reactant | Benzenesulfonyl chloride | 0.04 mmol, 5 μL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | trans-N-(8-amino-7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2,-trifluoroacetamide | 0.01 mmol, 5.0 mg | NC=1C(=CC2=C(OC3=C([C@H]4N2CCC[C@H]4NC(C(F)(F)F)=O)C=CC=C3)C1)Cl | C19H17ClF3N3O2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 25 μL | C(C)N(CC)CC | C6H15N
product | trans-N-(7-chloro-2,3,4,14b-tetrahydro-8-[bis(phenylsulfonyl)amino]-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide | 7.3 mg, 83% | ClC1=CC2=C(OC3=C([C@H]4N2CCC[C@H]4NC(C(F)(F)F)=O)C=CC=C3)C=C1N(S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C31H25ClF3N3O6S2
